US09216980B2
Step 4: Imidazole-1-carbothioic acid O-(8-{4-[6-cyano-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-3-yl]-benzyl}-8-aza-bicyclo[3.2.1]oct-3-yl) ester
A solution of 3-[4-(3-hydroxy-8-aza-bicyclo[3.2.1]oct-8-ylmethyl)-phenyl]-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (155 mg, 0.29 mmol), DMAP (5 mg, catalytic) and N,N′-thiocarbonyldiimidazole (455 mg, 8.76 mmol) in DCM (10 mL) was heated under reflux for 12 h. The cooled reaction mixture was purified by flash chromatography (silica, 50 g column, Biotage, 0-5% MeOH in DCM) to afford the title compound as a white solid (182 mg, 97%). 1H NMR (CDCl3, 300 MHz): 9.28-9.25 (m, 1H), 9.04 (dd, J=7.0, 2.2 Hz, 1H), 8.69-8.66 (m, 1H), 8.51 (d, J=1.0 Hz, 1H), 8.47-8.39 (m, 1H), 7.81-7.61 (m, 5H), 7.15-7.10 (m, 1H), 6.12 (s, 2H), 4.35 (s, 2H), 3.76-3.61 (m, 4H), 2.32-2.17 (m, 4H), 2.13-1.93 (m, 5H), 1.08-0.96 (m, 2H), 0.00 (s, 9H). LCMS (Method B): RT=3.13 min, M+H+=650.

reactant | 3-[4-(3-hydroxy-8-aza-bicyclo[3.2.1]oct-8-ylmethyl)-phenyl]-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.29 mmol, 155 mg | OC1CC2CCC(C1)N2CC2=CC=C(C=C2)C2=CC1=C(N(C3=C1C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C2 | C31H37N5O2Si
reactant | N,N′-thiocarbonyldiimidazole | 8.76 mmol, 455 mg | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Imidazole-1-carbothioic acid O-(8-{4-[6-cyano-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-3-yl]-benzyl}-8-aza-bicyclo[3.2.1]oct-3-yl) ester | 182 mg, 97% | C(#N)C1=CC=2C3=C(N(C2C=N1)COCC[Si](C)(C)C)N=CC(=C3)C3=CC=C(CN1C2CC(CC1CC2)OC(=S)N2C=NC=C2)C=C3 | C35H39N7O2SSi
